US04034088
3-Acetoxymethyl-2-(tertiary butoxycarbonyl)-7-[(2-mesyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (6 g.) is dissolved in trifluoroacetic acid (60 cc.). The reagents are contacted for 3 hours while keeping the temperature at about 4° C. The mixture is then concentrated to dryness under reduced pressure (1 mm.Hg) at 40° C., and the residue is recrystallised from acetonitrile (15 cc.) to give 3-acetoxymethyl-2-carboxy-7-[(2-mesyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (4 g.), m.p. 223° C., [α]D20 = 78.9° ± 1.5° (c= 1, dimethylformamide).

reactant | 3-Acetoxymethyl-2-(tertiary butoxycarbonyl)-7-[(2-mesyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 6 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CN1C(=NC=C1)S(=O)(=O)C)=O)=O)C(=O)OC(C)(C)C | C20H26N4O8S2
solvent | trifluoroacetic acid | 60 cc | FC(C(=O)O)(F)F | C2HF3O2
product | 3-acetoxymethyl-2-carboxy-7-[(2-mesyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 4 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CN1C(=NC=C1)S(=O)(=O)C)=O)=O)C(=O)O | C16H18N4O8S2
